US07718999B2
2) 2-Bromo-3-butoxymethylthiophene
3-Butoxymethylthiophene (6.17 grams, 36.24 mmol) was dissolved in 100 milliliters of CH2Cl2, and then 100 milliliters of acetic acid (AcOH) were added. N-Bromosuccinimide (NBS) (6.45 grams, 36.24 mmol) was then added in portions to the resulting mixture under stirring. The mixture resulting was then stirred at room temperature, about 23° C. to about 27° C., for 24 hours. Reaction completion was determined by 1H NMR. The solvents were then removed by evacuation. The residue remaining was dissolved in hexane, and the soluble part was passed through a short silica gel column (10 centimeters×3 centimeters). After removing the solvent, the resulting colorless liquid was purified by column chromatography using hexane/CH2CI2 (3/2, v/v) then by distillation under reduced pressure.

reactant | 3-Butoxymethylthiophene | 36.24 mmol, 6.17 grams | C(CCC)OCC1=CSC=C1 | C9H14OS
reactant | acetic acid | 100 milliliters | C(C)(=O)O | C2H4O2
reactant | N-Bromosuccinimide | 36.24 mmol, 6.45 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH2Cl2 | 100 milliliters | C(Cl)Cl | CH2Cl2
product | 2-Bromo-3-butoxymethylthiophene | BrC=1SC=CC1COCCCC | C9H13BrOS
